US07872128B2
Step 1: Methyl 2-chloro-6-fluorobenzoate
An oven-dried round bottom flask successively evacuated and purged with N2 gas was charged with drisolv THF (84 ml) and placed in a −78° C. dry ice/acetone bath. To this was added n-butyllithium (2.5 M in hexanes) (18 ml, 46 mmol) and the mixture was stirred for 10 min before adding neat 1-chloro-3-fluorobenzene (5.48 g, 42.0 mmol). The solution was stirred for 2 hrs before adding neat methyl chloroformate (4.0 ml, 50 mmol). The resultant solution was stirred at −78° C. for 3 hrs and then allowed to warm to RT. Water was added to the mixture followed by EtOAc. The layers were separated and the aqueous layer was extracted 3× EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered and concentrated to give the title compound as a clear liquid.

reactant | n-butyllithium | 46 mmol, 2.5 M, 18 ml | C(CCC)[Li]
reactant | 1-chloro-3-fluorobenzene | 42.0 mmol, 5.48 g | ClC1=CC(=CC=C1)F | C6H4ClF
reactant | methyl chloroformate | 50 mmol, 4.0 ml | ClC(=O)OC | C2H3ClO2
reactant | Water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 2-chloro-6-fluorobenzoate | ClC1=C(C(=O)OC)C(=CC=C1)F | C8H6ClFO2
